US07407963B2
methyl trans-2-(4-amino-3,5-dibromobenzoyl)cyclopropanecarboxylate
0.45 g (0.01781 mol) of 95% sodium hydride was added in small amounts to a solution of 3.9 g (0.02074 mol) of trimethyl-oxosulfonium iodide in 50 mL anhydrous dimethylsulfoxide at ambient temperature, with stirring. The mixture was stirred for another 30 minutes at ambient temperature and then a solution of 5.8 g (0.01598 mol) of methyl trans-4-(4-amino-3,5-dibromophenyl)-4-oxobutenoate in 50 mL of dimethylsulfoxide was added dropwise without external heating, whereupon the temperature of the mixture rose to 35° C., and stirring was continued for another hour at ambient temperature. The mixture was stirred into in 500 mL of saturated aqueous saline solution, then extracted exhaustively with ethyl acetate. The combined ethyl acetate extracts were dried over sodium sulfate and evaporated down in vacuo. The residue yielded 2.6 g (43% of theoretical) of a colorless oil after purification by column chromatography on silica gel (30 to 60 μm) using EE/cyclohexane (1/1 v/v) as eluant. IR (KBr): 3475, 3363 (NH2); 1728, 1662 (C═O) cm−1; MS: M+=375/377/379 (Br2).

reactant | sodium hydride | 0.01781 mol, 0.45 g | [H-].[Na+]
reactant | trimethyl-oxosulfonium iodide | 0.02074 mol, 3.9 g | [I-].C[S+](=O)(C)C
reactant | methyl trans-4-(4-amino-3,5-dibromophenyl)-4-oxobutenoate | 0.01598 mol, 5.8 g | NC1=C(C=C(C=C1Br)C(/C=C/C(=O)OC)=O)Br | C11H9Br2NO3
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
product | methyl trans-2-(4-amino-3,5-dibromobenzoyl)cyclopropanecarboxylate | NC1=C(C=C(C(=O)[C@H]2[C@@H](C2)C(=O)OC)C=C1Br)Br | C12H11Br2NO3
